US04983620
1-Benzyl-2-[2-(4methylpiperazin-1-yl) ethylthio]benzimidazole
Grams 2 2-[2-(4-methylpiperazin-1-yl)ethylthio] benzimidazole, 0.86 ml benzyl chloride, a 3.5 g aqueous solution containing 1.16 g NaOH and 7.5 ml N,N-dimethylformanide were refluxed for 6 hours, then the solid precipitate was filtered off, and the limpid solution was evaporated almost to dryness. The obtained residue was dissolved in chloroform and water and the extraction was carried out three times; the organic phase was washed, made anhydrous and then evaporated to dryness. The obtained residue was chromatographed on a column eluting with chloroform, methyl alcohol, cyclohexane, ammonium hydroxide (65:15:15:0.1). The fractions, which contained the compound, were evaporated to dryness and the residue which was taken up with boiling petroleum ether (80°-φ° C.) and separated from the insoluble oil, gave, on cooling 0.3 g 1-benzyl-2-[2-4- methylpiperazin-1-ethylthio]benzimidazole melting at 122°-125° C.

reactant | 2-[2-(4-methylpiperazin-1-yl)ethylthio] benzimidazole | CN1CCN(CC1)CCSC=1NC2=C(N1)C=CC=C2 | C14H20N4S
reactant | benzyl chloride | 0.86 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NaOH | 1.16 g | [OH-].[Na+]
product | 1-Benzyl-2-[2-(4methylpiperazin-1-yl) ethylthio]benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)C | C21H26N4S
